US05306819
A solution of aminoacetamidine dihydrochloride (Mengelberg, M. Chem. Ber. 89, 1185 (1956)) (2.4 g, 0.01 mol, 1 equiv.) in H2O (~10 mL) was added dropwise to a cold (0° C.) stirring solution of 1,2-cyclopentanedione (1.0 g, 0.01 mol) in ethanol (8-10 mL). After allowing the reaction mixture to come to room temperature, concentrated NH4OH (aq.) was added slowly until the pH was 8-9. Small amounts of concentrated NH4OH were added as needed in order to maintain a pH of 8-9. When the 1,2-cycopentanedione was no longer visible on TLC (30% EtOAc/hexanes) the reaction mixture was diluted with 5% HCl, washed (3×) with CH2Cl2 and the organic portions discarded. The aqueous portion was made basic with 6N NaOH (aq.), extracted (4×) with CH2Cl2 and the combined extracts dried over sodium sulfate. Concentration of the solution under reduced pressure gave 2-amino-cyclopent[b]pyrazine as a greenish-yellow solid.

reactant | aminoacetamidine dihydrochloride | 0.01 mol, 2.4 g, 1 equiv. | Cl.Cl.NCC(=N)N
reactant | 1,2-cyclopentanedione | 0.01 mol, 1.0 g | C1(C(CCC1)=O)=O | C5H6O2
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | ~10 mL | O | H2O
solvent | ethanol | 8-10 mL | C(C)O | C2H6O
solvent | HCl | Cl | ClH
product | 2-amino-cyclopent[b]pyrazine | NC1=CN=C2C(N1)=CC=C2 | C7H7N3
